US08633189B2
To a solution of 2-amino-5-methylphenol (10 g, 81.3 mmol) in acetone (150 mL) was added K2CO3 (24.5 g, 243.9 mmol) and ethyl 2,3-dibromopropanoate (23.3 g, 89.4 mmol). The mixture was heated at reflux for 16 h. The filtrate was concentrated in vacuo to give an oil. Purification by silica gel chromatography (hexane/ethyl acetate gradient) provided ethyl 7-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate (8.5 g, 47.3% yield). 1H NMR (400 MHz, CDCl3) δ 6.76 (d, J=0.8 Hz, 1H), 6.60 (dd, J=1.2, 8.0 Hz, 1H), 6.19 (d, J=8.0 Hz, 1H), 4.78 (t, J=3.6 Hz, 1H), 4.29-4.21 (m, 2H), 3.59-3.52 (m, 2H), 2.23 (s, 3H), 1.28 (t, J=7 Hz, 3H).

reactant | 2-amino-5-methylphenol | 81.3 mmol, 10 g | NC1=C(C=C(C=C1)C)O | C7H9NO
reactant | K2CO3 | 243.9 mmol, 24.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2,3-dibromopropanoate | 89.4 mmol, 23.3 g | BrC(C(=O)OCC)CBr | C5H8Br2O2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | ethyl 7-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 8.5 g, 47.3% yield | CC=1C=CC2=C(OC(CN2)C(=O)OCC)C1 | C12H15NO3
